US07361659B2
To a stirred solution of ethanolamine (1.08 g, 17.7 mmol) in dioxane (20 ml) was added at 0° C. (ice water bath) commercially available 2-acetamido-4-methylthiazole-5-sulfonyl chloride (1.5 g, 5.89 mmol) and triethylamine (0.9 ml, 6 mmol). The light yellow suspension was stirred at room temperature for 17 h, and evaporated. The crude product was further purified by flash chromatography on silica gel (ethyl acetate/MeOH) and subsequent crystallization (dichloromethane/MeOH/hexane) to yield 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-amide (1.0 g, 61%) as a white solid. MS (ISP) 278.0 [(M−H)−]; mp 211° C.

reactant | ethanolamine | 17.7 mmol, 1.08 g | C(O)CN | C2H7NO
reactant | 2-acetamido-4-methylthiazole-5-sulfonyl chloride | 5.89 mmol, 1.5 g | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
reactant | triethylamine | 6 mmol, 0.9 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2-acetamido-4-methyl-thiazole-5-sulfonic acid (2-hydroxy-ethyl)-amide | 1.0 g, 61% | OCCNS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C8H13N3O4S2
